* JSIM deck file generated with TimEx
* === DEVICE-UNDER-TEST ===
* Back-annotated simulation file written by InductEx v.6.1.52 on 2022/07/29.
* Author: L. Schindler
* Version: 3.0
* Last modification date: 29 July 2022
* Last modification by: T. Hall
* Copyright (c) 2018-2022 Lieze Schindler, Tessa Hall, Stellenbosch University
* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:
* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.
* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.
* For questions about the library, contact Tessa Hall, 19775539@sun.ac.za.
* The cell is not designed to be connected directly to passive transmission lines.
*$Ports  a q
.subckt THmitll_BUFF a q
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=IC
.param B2=IC
.param B3=IC
.param B4=IC
.param IB1=B1*Ic0*BiasCoef
.param IB2=B2*Ic0*0.95
.param IB3=B3*Ic0*0.95
.param IB4=B4*Ic0*BiasCoef
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param L1=Phi0/(4*B1*Ic0)
.param L2=Phi0/(2*B1*Ic0)
.param L3=Phi0/(2*B2*Ic0)
.param L4=Phi0/(2*B3*Ic0)
.param L5=Phi0/(4*B4*Ic0)
.param LP1=LP
.param LP2=LP
.param LP3=LP
.param LP4=LP
.param RB1=B0Rs/B1   
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet+LP
.param LRB4=(RB4/Rsheet)*Lsheet+LP
B1 1 2 jjmit  area=B1 
B2 4 5 jjmit  area=B2 
B3 7 8 jjmit  area=B3 
B4 10 11 jjmit  area=B4 
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 6 pwl(0 0 5p IB2)
IB3 0 9 pwl(0 0 5p IB3)
IB4 0 12 pwl(0 0 5p IB4)
LB1 3 1 LB1 
LB2 6 4 LB2 
LB3 9 7 LB3 
LB4 12 10 LB4 
L1 a 1 2.06E-012 
L2 1 4 4.141E-012 
L3 4 7 4.153E-012 
L4 7 10 4.142E-012 
L5 10 q 2.078E-012 
LP1 2 0 4.709E-013 
LP2 5 0 4.152E-013 
LP3 8 0 4.425E-013 
LP4 11 0 4.583E-013 
RB1 1 101 RB1  
LRB1 101 0 LRB1 
RB2 4 104 RB2  
LRB2 104 0 LRB2 
RB3 7 107 RB3  
LRB3 107 0 LRB3 
RB4 10 110 RB4  
LRB4 110 0 LRB4 
.ends
* === SOURCE DEFINITION ===
.SUBCKT SOURCECELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=2.25
.param b2=2.25
.param b3=ic
.param ib1=275u
.param ib2=b3*ic0*biascoef
.param lb1=lb
.param lb2=lb
.param l1=1p
.param l2=3.9p
.param l3=0.6p
.param l4=1.1p
.param l5=4.5p
.param l6=phi0/(4*ic*ic0)
.param lp2=lp
.param lp3=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param rb3=b0rs/b3
.param lrb1=(rb1/rsheet)*lsheet
.param lrb2=(rb2/rsheet)*lsheet+lp
.param lrb3=(rb3/rsheet)*lsheet+lp
b1 2 3 jjmit  area=b1
b2 5 6 jjmit  area=b2
b3 7 8 jjmit  area=b3
ib1 0 4 pwl(0 0 5p ib1)
ib2 0 9 pwl(0 0 5p ib2)
lb1 4 3 2.825e-012
lb2 9 7 2.942e-012
l1 a 1 1.672e-012
l2 1 0 3.901e-012
l3 1 2 5.953e-013
l4 3 5 1.1e-012
l5 5 7 4.542e-012
l6 7 q 2.012e-012
lp2 6 0 3.924e-013
lp3 8 0 3.841e-013
rb1 2 102 rb1
lrb1 102 3 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
rb3 7 107 rb3
lrb3 107 0 lrb3
.ENDS SOURCECELL
* === INPUT LOAD DEFINITION ===
.SUBCKT LOADINCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b2*ic0)
.param l4=phi0/(4*b2*ic0)
.param lp1=lp
.param lp2=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param lrb1=(rb1/rsheet)*lsheet+lp
.param lrb2=(rb2/rsheet)*lsheet+lp
b1 1 2 jjmit  area=b1
b2 5 6 jjmit  area=b2
ib1 0 4 pwl(0 0 5p ib1)
lb1 4 3 2.336e-012
l1 a 1 2.07e-012
l2 1 3 2.088e-012
l3 3 5 2.082e-012
l4 5 q 2.072e-012
lp1 2 0 3.137e-013
lp2 6 0 3.123e-013
rb1 1 101 rb1
lrb1 101 0 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
.ENDS LOADINCELL
* === OUTPUT LOAD DEFINITION ===
.SUBCKT LOADOUTCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b2*ic0)
.param l4=phi0/(4*b2*ic0)
.param lp1=lp
.param lp2=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param lrb1=(rb1/rsheet)*lsheet+lp
.param lrb2=(rb2/rsheet)*lsheet+lp
b1 1 2 jjmit  area=b1
b2 5 6 jjmit  area=b2
ib1 0 4 pwl(0 0 5p ib1)
lb1 4 3 2.336e-012
l1 a 1 2.07e-012
l2 1 3 2.088e-012
l3 3 5 2.082e-012
l4 5 q 2.072e-012
lp1 2 0 3.137e-013
lp2 6 0 3.123e-013
rb1 1 101 rb1
lrb1 101 0 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
.ENDS LOADOUTCELL
* === SINK DEFINITION ===
.SUBCKT SINKCELL  1
r1 1 0 2
.ENDS SINKCELL
* ===== MAIN =====
I_a 0 1 pwl(0 0 150p 0 153p 600u 156p 0 250p 0 253p 600u 256p 0 280p 0 283p 600u 286p 0 540p 0 543p 600u 546p 0 600p 0 603p 600u 606p 0 640p 0 643p 600u 646p 0 780p 0 783p 600u 786p 0)
XSOURCEINa SOURCECELL 1 2
XLOADINa LOADINCELL 2 3
XLOADOUTq LOADOUTCELL 4 5
XSINKOUTq SINKCELL 5
XDUT THmitll_BUFF 3 4
.tran 0.025p 1000p 0
.print i(L1.XDUT) p(B1.XDUT) p(B4.XDUT) p(B1.XLOADOUTq)
.end

